US06242422B1
To a solution of 1-aminonaphthalene (1.43 g, 10 mmol) and triethylamine (1.5 mL, 10.8 mmol) in dimethylformamide (3.0 mL) at room temperature under nitrogen was added ethyl 2-bromopropionate (1.4 mL, 10.8 mmol). After stirring at 60° C. (bath temperature) 18 hrs, the mixture was partitioned between EtOAc-water. The organic phase was washed with water, 5% KHSO4, saturated NaHCO3 and saturated NaCl solutions, dried over anhydrous Na2SO4 and evaporated to a brown oil. Purification of the crude product by flash chromatography on silica gel eluting with Et2O-hexane (5:95) to give ethyl 2-(1-naphthylamino)propionate (1.726 g, 73%) as a white crystalline solid after trituration with cold hexane. TLC(Et2O-hexane; 2:3) Rf=0.43.

reactant | 1-aminonaphthalene | 10 mmol, 1.43 g | NC1=CC=CC2=CC=CC=C12 | C10H9N
reactant | triethylamine | 10.8 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromopropionate | 10.8 mmol, 1.4 mL | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | ethyl 2-(1-naphthylamino)propionate | 1.726 g, 73% | C1(=CC=CC2=CC=CC=C12)NC(C(=O)OCC)C | C15H17NO2
